US05723606
6-[(2'-Methoxy-4-biphenylyl)carbonyl]-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine was dissolved in 4.8 ml of ethyl alcohol, the solution was mixed with 0.44 ml of 4N hydrochloric acid-ethyl acetate and cooled on an ice bath to effect crystal formation, and then the thus formed crystals were collected by filtration and washed with a small volume of ethyl alcohol to obtain 260 mg of 6-[(2'-methoxy-4-biphenylyl)carbonyl]-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine hydrochloride (Example 33(2)).

reactant | 6-[(2'-Methoxy-4-biphenylyl)carbonyl]-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CCC2=C(C3=C1C=CC=C3)NC(=N2)C | C26H23N3O2
reactant | hydrochloric acid ethyl acetate | 4N, 0.44 ml | Cl.C(C)(=O)OCC
solvent | ethyl alcohol | 4.8 ml | C(C)O | C2H6O
product | 6-[(2'-methoxy-4-biphenylyl)carbonyl]-2-methyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepine hydrochloride | 260 mg | Cl.COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CCC2=C(C3=C1C=CC=C3)NC(=N2)C | InChI=1S/C26H23N3O2.ClH/c1-17-27-22-15-16-29(23-9-5-3-8-21(23)25(22)28-17)26(30)19-13-11-18(12-14-19)20-7-4-6-10-24(20)31-2;/h3-14H,15-16H2,1-2H3,(H,27,28);1H
